US04461907
A mixture of 2,4-dichlorophenol (15.3 g), 10% sodium hydroxide solution (100 ml) and 40% aqueous formaldehyde solution (37.5 ml) was heated at 95°-100° C. for 4 hr, then cooled and acidified by addition of 2-normal sulphuric acid (70 ml). The precipitated oil was extracted into toluene, and the extract washed with sodium bicarbonate solution, dried and evaporated. The residue was recrystallised from boiling water to yield 3,5-dichloro-2-hydroxybenzyl alcohol (4.0 g), m.p. 81°-82° C. on drying at 56° C./20 mm. Hg=2660 Pa.

reactant | 2,4-dichlorophenol | 15.3 g | ClC1=C(C=CC(=C1)Cl)O | C6H4Cl2O
reactant | sodium hydroxide | 100 ml | [OH-].[Na+]
reactant | formaldehyde | 37.5 ml | C=O | CH2O
solvent | sulphuric acid | 70 ml | S(O)(O)(=O)=O | H2O4S
product | 3,5-dichloro-2-hydroxybenzyl alcohol | 4.0 g | ClC=1C(=C(CO)C=C(C1)Cl)O | C7H6Cl2O2
